### PR TITLE
[Merged by Bors] - feat: grind golf in Mathlib.Data.List

### PR DESCRIPTION
**Pull request by kim-em**
Much of this comes from locations identified by the new `linter.tacticAnalysis.terminalToGrind`, and then cleaning up in flagged files.

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -157,15 +157,10 @@ theorem exists_mem_cons_of_exists {p : α → Prop} {a : α} {l : List α} : (
...
-  fun ⟨x, xal, px⟩ =>
-    Or.elim (eq_or_mem_of_mem_cons xal) (fun h : x = a => by rw [← h]; left; exact px)
-      fun h : x ∈ l => Or.inr ⟨x, h, px⟩
+    p a ∨ ∃ x ∈ l, p x := by grind
 
 theorem exists_mem_cons_iff (p : α → Prop) (a : α) (l : List α) :
-    (∃ x ∈ a :: l, p x) ↔ p a ∨ ∃ x ∈ l, p x :=
-  Iff.intro or_exists_of_exists_mem_cons fun h =>
-    Or.elim h (exists_mem_cons_of l) exists_mem_cons_of_exists
+    (∃ x ∈ a :: l, p x) ↔ p a ∨ ∃ x ∈ l, p x := by grind
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean:163]: For this one specifically I quite like how the old proof spells out exactly what the names of the individual pieces are.

File: Mathlib/Data/List/Lattice.lean [hunk 2]
```diff
@@ -159,68 +162,38 @@ end Inter
...
 @[simp]
 theorem cons_bagInter_of_neg (l₁ : List α) (h : a ∉ l₂) :
     (a :: l₁).bagInter l₂ = l₁.bagInter l₂ := by
-  cases l₂; · simp only [bagInter_nil]
-  simp only [erase_of_not_mem h, List.bagInter, if_neg (mt mem_of_elem_eq_true h)]
+  cases l₂ with grind [List.bagInter]
+
+@[grind =]
+theorem cons_bagInteger :
+    (a :: l₁).bagInter l₂ = if a ∈ l₂ then a :: l₁.bagInter (l₂.erase a) else l₁.bagInter l₂ := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/Lattice.lean:183]: Is the general rule with `grind` that unlike `simp`, we should encourage expansion of `if`s? Could this be document somewhere (perhaps including but not limited to the commit message)?

Comment (kim-em) [reply Mathlib/Data/List/Lattice.lean:183]: I've finally started writing a document about this, in progress at https://github.com/leanprover/reference-manual/pull/586.

File: Mathlib/Data/List/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Data/List/Basic.lean:163]: I disagree. This is a triviality, and I can't imagine how anyone could learn anything from the proof that they didn't already understand from the statement. In fact, this seems like one of the most extreme examples possible of this. :-) But I appreciate that my eyes glaze over on theorem names faster than most peoples'.

**Review by euprunin — APPROVED** [review]
Line count: +74 -231

Impressive!

**Comment by fpvandoorn** [comment]
bors d+

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
